US08809333B2
To a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.685 g, 1.62 mmol, 1 eq) in EtOH (8 mL) was added 1M HCl (4 mL). The reaction mixture was allowed to stir at RT overnight. The reaction mixture was concentrated and azeotroped with MeOH to remove water to give (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanamide (38 mg, 86% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 1.51 (s, 3H) 2.26-2.37 (m, 1H) 2.72-2.85 (m, 1H) 3.07 (s, 3H) 4.10-4.20 (m, 1H) 4.27-4.38 (m, 1H) 7.73 (s, 1H) 7.80 (s, 1H) 7.98 (d, J=8.39 Hz, 1H) 8.02 (d, J=0.78 Hz, 1H) 8.31 (s, 1H) 8.72 (s, 1H) 9.30 (s, 1H) 10.23 (s, 1H) 11.01 (br. s., 1H). LC-MS M+H+390.1.

reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 1.62 mmol, 0.685 g, 1 eq | C[C@](C(=O)NOC1OCCCC1)(CCN1N=CC(=C1)C1=NC2=CC=CC=C2N=C1)S(=O)(=O)C | C22H27N5O5S
reactant | HCl | 1M, 4 mL | Cl | ClH
solvent | EtOH | 8 mL | CCO | C2H6O
product | (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanamide | 38 mg, 86% yield | ONC([C@@](CCN1N=CC(=C1)C1=NC2=CC=CC=C2N=C1)(S(=O)(=O)C)C)=O | C17H19N5O4S
